US05550125
7.1. N-(2-Hydroxy-5-nitrophenyl)trifluoroacetamide.
A suspension of 18 g (0.116 mol) of 2-amino-4-nitrophenol in 210 ml of diethyl ether is prepared, 16 ml of pyridine are added, the mixture is cooled in a bath of ice and ethanol and 24.5 g (0.116 mol) of trifluoroacetic anhydride are added dropwise.

reactant | 2-amino-4-nitrophenol | 0.116 mol, 18 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
reactant | trifluoroacetic anhydride | 0.116 mol, 24.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | diethyl ether | 210 ml | C(C)OCC | C4H10O
product | N-(2-Hydroxy-5-nitrophenyl)trifluoroacetamide | OC1=C(C=C(C=C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C8H5F3N2O4
